US05998424
2-[Bis(tert-butoxycarbonyl)amino]-5-bromopyrimidine
Sodium hydride (5.06 g, 60% 127 mmol) was added in 2 portions to 2-amino-5-bromopyrimidine (10.0 g, 57 mmol) in dry THF (500 mL) at 0° C. After stirring 30 minutes, di-t-butyl dicarbonate (27.6 g, 126 mmol) was added. The resulting mixture was refluxed 17 hours, quenched carefully with water, and concentrated. The concentrated mixture was diluted with EtOAc and extracted with water. The combined aqueous layers were extracted with EtOAc. All of the organic layers were combined, dried over Na2SO4, filtered, and evaporated. The crude product was chromatographed on silica gel (10-15% EtOAc/hexanes) to yield the desired product (15.48 g, 72%). 1H NMR (CDCl3): δ8.78 (s, 2H), 1.47 (s, 18H).

reactant | Sodium hydride | 127 mmol, 5.06 g | [H-].[Na+]
reactant | 2-amino-5-bromopyrimidine | 57 mmol, 10.0 g | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | di-t-butyl dicarbonate | 126 mmol, 27.6 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-[Bis(tert-butoxycarbonyl)amino]-5-bromopyrimidine | 15.48 g, 72% | C(C)(C)(C)OC(=O)N(C1=NC=C(C=N1)Br)C(=O)OC(C)(C)C | C14H20BrN3O4
